US08563542B2
Reaction of 1-aminomethyl-cyclopropanecarboxylic acid ethyl ester with cyclopentanone, sodium acetate and sodium triacetoxyborohydride in DCM gave 1-cyclopentylaminomethyl-cyclopropanecarboxylic acid ethyl ester

reactant | 1-aminomethyl-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)CN | C7H13NO2
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-cyclopentylaminomethyl-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)CNC1CCCC1 | C12H21NO2
